US06878725B2
1-Benzyl-4-(pyridin-2-ylamino)piperidine.
Prepared from 2-bromopyridine and 1-benzyl-4-aminopiperidine using Method A-B.

reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | 1-benzyl-4-aminopiperidine | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
product | 1-Benzyl-4-(pyridin-2-ylamino)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)NC1=NC=CC=C1 | C17H21N3
